Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:7],1.7710909765400005
[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-5.78261393538
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:12].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:13]([H:14])[H:15],1.60213537881
[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11],-5.76748382064
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],6.018120450650001
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7],2.20042051545
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:10].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9],5.37601788809
[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.5531179994
[H:1][C:2]([C:3][C:4]#[C:5][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2]([C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.02606399227
[O:11][H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12],-2.81170608662
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-1.7910711415599998
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:10][C:11][H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],-4.31968802687
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:7][H:8].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][H:8],-2.90066700666
[O:1]=[C:2]=[C:3][O:4][C:5]#[C:6][H:7]>>[C:5]#[C:6][H:7].[O:1][C:2]#[C:3][O:4],4.01550326053
[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[C:4]([H:5])#[C:6][C:7]([H:8])[H:9].[O:1]=[C:2][H:3],3.5871414307
[C:2](=[O:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]([C:3][H:4])[H:6]>>[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.67307383643
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],1.74270143485
[H:12].[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.60385421782
[H:1][O:2][C:3]([C:4][O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]([C:4]=[O:5])=[C:10]([H:11])[H:12],1.08718815573
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14],-3.02126953357
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12],-2.2671581854
[C:4]#[C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-7.41820460476
[H:1][O:2]/[C:3]([H:4])=[C:10](/[C:8]([C:7]#[C:5][H:6])[H:9])[H:11]>>[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])=[C:7][C:8]([H:9])=[C:10]1[H:11],0.443914292509
[O:1][C:2]([H:3])([H:4])/[C:5](=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5](=[C:6](\[H:7])[O:8][H:9])\[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4],1.3672864433399998
[C:3]([H:4])#[C:5][C:6][O:7][H:8].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][H:8],-2.0719394336400003
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.61769663554
[C:2](=[C:3]([H:4])[H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-3.4609101959500004
[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.14990509247
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.32001519586
